US04199592
To a solution of 4,5-bis(4-methoxyphenyl)-2-nitroimidazole (3 g, 9.2 mmole) and triethylamine (3.9 ml., 27.6 mmole) in 30 ml. THF at 0° C. under N2 was dropwise added a solution of benzoyl chloride (1.2 ml., 10.1 mmole) in 5 ml THF. The reaction mixture was stirred for 8 hours at 0° C. and then left in the refrigerator overnight. The reaction was then diluted with 30 ml ether and filtered. The filtrate was concentrated on a rotary evaporator and chromatographed on Florisil. Recrystallization from methylcyclohexane gave 1.89 g of 1-benzoyl-4,5-bis(4-methoxyphenyl)-2-nitroimidazole, mp. 161°-163° C.

reactant | 4,5-bis(4-methoxyphenyl)-2-nitroimidazole | 9.2 mmole, 3 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)[N+](=O)[O-] | C17H15N3O4
reactant | triethylamine | 27.6 mmole, 3.9 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 10.1 mmole, 1.2 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 1-benzoyl-4,5-bis(4-methoxyphenyl)-2-nitroimidazole | 1.89 g | C(C1=CC=CC=C1)(=O)N1C(=NC(=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)[N+](=O)[O-] | C24H19N3O5
